US05498774
Synthesis of 2-methylimidazo[1,2-a]pyridine-8-carboxylic acid (Compound No. 1-4)
Methyl 2-methylimidazo[1,2-a]pyridine-8-carboxylate (4 g, 21 m moles) was dissolved in a mixture of ethanol (45 ml) and water (20 ml), and sodium hydroxide (2.5 g, 63 m moles) was added thereto and refluxed under heating for 30 minutes. The reaction mixture was cooled to room temperature and concentrated under reduced pressure. Water (40 ml) was added to the concentrate, and the mixture was adjusted to pH 4 with conc. hydrochloric acid. The precipitating crystals were collected by filtration to give the object compound (2.3 g, yield 64%).

reactant | Methyl 2-methylimidazo[1,2-a]pyridine-8-carboxylate | 4 g | CC=1N=C2N(C=CC=C2C(=O)OC)C1 | C10H10N2O2
reactant | sodium hydroxide | 2.5 g | [OH-].[Na+]
solvent | ethanol | 45 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 2-methylimidazo[1,2-a]pyridine-8-carboxylic acid | 2.3 g, yield 64% | CC=1N=C2N(C=CC=C2C(=O)O)C1 | C9H8N2O2
